US08604015B2
To a solution of (3,4-difluorophenyl)(phenyl)methyl quinuclidine-3-carboxylate (65 mg, 0.18 mmol) in ethyl acetate (3 ml), 2-chloro-1-(thiophen-2-yl)ethanone (29.2 mg, 0.18 mmol) was added, and the mixture was stirred at room temperature overnight. The solvent was removed under vacuum, and the residue was taken up with diethyl ether and filtered to give 3-(((3,4-difluorophenyl)(phenyl)methoxy)carbonyl)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (20 mg, mixture of diastereoisomers).

reactant | (3,4-difluorophenyl)(phenyl)methyl quinuclidine-3-carboxylate | 0.18 mmol, 65 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC=CC=C2)C2=CC(=C(C=C2)F)F | C21H21F2NO2
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.18 mmol, 29.2 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 3-(((3,4-difluorophenyl)(phenyl)methoxy)carbonyl)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 20 mg | [Cl-].FC=1C=C(C=CC1F)C(OC(=O)C1C[N+]2(CCC1CC2)CC(C=2SC=CC2)=O)C2=CC=CC=C2 | InChI=1S/C27H26F2NO3S.ClH/c28-22-9-8-20(15-23(22)29)26(19-5-2-1-3-6-19)33-27(32)21-16-30(12-10-18(21)11-13-30)17-24(31)25-7-4-14-34-25;/h1-9,14-15,18,21,26H,10-13,16-17H2;1H/q+1;/p-1
